US07135466B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2,5-dimethylbenzoyl)thiourea
Toluene (20 ml) and thionyl chloride (1 ml) were added to commercially available 2,5-dimethylbenzoic acid (80 mg), and the mixture was heated at 100° C. for one hr. The solvent was removed by distillation, and 2,5-dimethyl-1-benzenecarbonyl isothiocyanate was prepared using the resultant 2,5-dimethyl-1-benzenecarbonyl chloride as a starting compound according to the description of the literature. 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline (50 mg) was dissolved in toluene (5 ml) and ethanol (1 ml) to prepare a solution. A solution of 2,5-dimethyl-1-benzenecarbonyl isothiocyanate in ethanol (1 ml) was added to the solution, and the mixture was stirred at room temperature for 2 hr. The reaction solution was concentrated, and the residue was purified by chromatography on silica gel using chloroform/acetone for development to give the title compound (75 mg, yield 91%).

reactant | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dimethylbenzoic acid | 80 mg | CC1=C(C(=O)O)C=C(C=C1)C | C9H10O2
reactant | 2,5-dimethyl-1-benzenecarbonyl chloride | CC1=C(C=C(C=C1)C)C(=O)Cl | C9H9ClO
reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]aniline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | 2,5-dimethyl-1-benzenecarbonyl isothiocyanate | CC1=C(C=C(C=C1)C)C(=O)N=C=S | C10H9NOS
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | Toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}-N′-(2,5-dimethylbenzoyl)thiourea | 75 mg, yield 91% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=S)NC(C1=C(C=CC(=C1)C)C)=O | C27H25N3O4S
